US04304781
4((3-Chloro)benzylthio)pyridine
3-Chlorobenzyl chloride (1.61 g) and 4-mercaptopyridine (1.11 g) in ethanol (10 ml) were heated at reflux for 4 hours and cooled. Crystals which precipitated were removed by filtration and dried to give the title compound as the hydrochloride (1.3 g) mp 222°-224° C. (Found: C, 52.6; H, 4.3; N, 5.1. C12H10ClNS requires C, 52.95; H, 4.1; N, 5.1%).

reactant | 3-Chlorobenzyl chloride | 1.61 g | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
reactant | 4-mercaptopyridine | 1.11 g | SC1=CC=NC=C1 | C5H5NS
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4((3-Chloro)benzylthio)pyridine | 1.3 g, 5.1% | ClC=1C=C(CSC2=CC=NC=C2)C=CC1 | C12H10ClNS
